Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Meperidine
 
Attending: ___.
 
Chief Complaint:
RLE non-healing ulcer
 
Major Surgical or Invasive Procedure:
___ RLE angio with ___ - BMS placement -pop  
___ RLE angio with ___ - no intervention  
___ RLE angio with loss of ___ pulse on the R
___ R AKpop-distal AT BPG w rSVG
___ debridement/VAC R foot

 
History of Present Illness:
History Present Illness: ___ w/ extensive PMH including DM, CAD
w/ MI s/p CABG ___ & R coronary stent and vein graft ___, PVD,
multiple foot surgeries had a R foot ulcer at lateral plantar
aspect that was debrided ~1month ago that has since not healed. 
Of note, Dr. ___ is her cardiologist and had placed stents x3 at
R SFA in an attempt to improve inflow shortly after the
debridement per patient.  The patient was admitted to ___ 
___ ___ for the non-healing wound.  Wound
cultures have grown MRSA and she was started on vancomycin and
ciprofloxacin via PICC.  MRI there showed osteomyelitis of R ___
metatarsal.  She is transferred here from OSH for further
eval/management of the wound.  She denies F, CP, N, V, SOB,
changes in bowel/bladder functions recently.

 
Past Medical History:
PAST MEDICAL HISTORY: DM w/ retinopathy/neuropathy, CAD,
Hypercholesterolemia, GERD,HTN, COPD, h/o breat CA, 
Fe-deficiency
anemia, obesity, PVD, OA, stroke, asthma, breast CA, PUD,
temporal artery giant cell arteritis (steroids/MTX), pseudogout,
retinal bleeding, 

 
Social History:
___
Family History:
One son who lives in another ___
 
Physical Exam:
PHYSICAL EXAM
Vital Signs: Temp: 97.6 RR: 16 Pulse: 42 BP: 105/92 O2: 100%RA  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended. 
Rectal: Not Examined. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RLE Femoral: P. Popiteal: D. DP: D. ___: D. 
LLE Femoral: P. Popiteal: D. DP: D. ___: D. 
 
DESCRIPTION OF WOUND: R foot ulcer at lateral plantar surface,
dry, clean, no purulence, no erythema, no fluctuance, mild TTP 
at
site, measures ~4x2.7cm.

 
Pertinent Results:
___ 05:29AM BLOOD WBC-6.9 RBC-3.02* Hgb-9.4* Hct-28.6* 
MCV-95 MCH-31.0 MCHC-32.7 RDW-14.9 Plt ___
___ 05:57PM BLOOD ___ PTT-47.4* ___
___ 05:29AM BLOOD Glucose-101* UreaN-31* Creat-1.2* Na-137 
K-4.3 Cl-100 HCO3-29 AnGap-12
___ 05:57PM BLOOD ALT-9 AST-17 AlkPhos-50
___ 05:29AM BLOOD Calcium-9.4 Phos-2.9 Mg-1.8
 
Brief Hospital Course:
Ms ___ was admitted to the vascular service on ___ for a 
non-healing ulcer of the Right ___.  Patient was evaluated from a 
vascular standpoint and found to have poor flow to the distal 
RLE.  Diagnostic angiography and stent placement of the RLE 
popliteal artery were performed HD 4 and 9 respectively.  Angio 
was repeated for possible disection vs occlusion of popliteal 
stent placement and found to be occluded HD 16.  Patient 
recovered well from all angiography procedures and was closely 
monitored postoperatively with adequate pain control.  Patient 
developed loss of ___ pulse s/p ___ angiography and above knee 
popliteal to distal anterior tibial bypass was performed with 
NRSVG on ___.  Patient recovered well from bypass with good 
urine output and remained afebrile postoperatively.  Patient was 
resumed on home mediations post-op day 1.  Wound was monitored 
through out hospital procedures and once adequate flow was 
restored for would healing podiatry debrided wound in the OR and 
placed a vac with plans for skin graft vs. Primary closure.  
Patient was continued on abx treatment vancomycin/cipro/flagyl 
for the course of treatment and discharged on augmentin x 14 
days.  Intake and ouput were closely monitored as were pulse 
exam and extremity ___ hospital stay. Insulin 
was controlled per ___ clinic throughout hospital stay and 
was closely monitored.  Rheumatology was consulted as in patient 
___ to remote history of temporal arteritis.  Per rheumatolgy it 
was unclear if this was a certain diagnosis however patient 
continued tx with prednisone 10 mg daily with 20 mg 
peroperatively.  Patient was instructed to f/u with opthomology 
on outpatient basis and was set up with appointment prior to 
discharge.  Patient was discharged to rehab facility 
___ with staples in place on right medial leg and wet 
to dry dressing to right lateral plantar surface of foot with 
plans to replace vac on discharge a rehab facility.  F/u 
appointment with Podiatry, Cardiolgy, and Vascular surgery were 
scheduled and patient was informed prior to discharge.
 
Medications on Admission:
vancomycin 1 g q12, albuterol 90 mcg 2 puffs QID prn, albuterol
Neb q6 prn, bufferin 325 qhs, bumex 1 q48, cardizem CD 180 
daily,
catapress 0.2 PO qPM, cipro 500 BID, claritin 10 daily prn,
deltasone 7.5mg daily, dilaudid ___ q3h prn, floranex 2 tabs
BID, folate 1 daily, guaifenesin-codeine 5ml q6h prn, HCTZ 25
q48, imdur 60 qhs, Lovenox 30 SC daily, MOM ___ daily prn,
miralax 17gm daily prn, mucinex ___ q12prn, MVI, Nasalcrom
5.2/mg/inh spray QID, nasonex ___ 2 sprays daily, NTG 0.4 SL
prn, norvasc 10 daily, novolin N 34 units SC daily qAM, Novolog
SS w/ meals & hs, plavix 75 daily, protonix 40 BID, sorbitol 70%
oral solution 30ml q8 prn, symbicort 160-4.5 2 inh BID, toprol 
XL
12.5 daily, trental 400 BID, Tylenol-codeine 300/3 q4-6 prn,
ventolin 2 puffs qid prn, vicodin ___ q6 prn, Vit D,
Zafirlukast 20 daily, zantac 150 BID, zocor 80 qhs

 
Discharge Medications:
Augmentin 875/125 BID x 14 days to end ___, albuterol 90 
mcg 2 puffs QID prn, albuterol
Neb q6 prn, bufferin 325 qhs, bumex 1 q48, cardizem CD 180 
daily,
catapress 0.2 PO qPM, cipro 500 BID, claritin 10 daily prn,
deltasone 7.5mg daily, dilaudid ___ q3h prn, floranex 2 tabs
BID, folate 1 daily, guaifenesin-codeine 5ml q6h prn, HCTZ 25
q48, imdur 60 qhs, Lovenox 30 SC daily, MOM ___ daily prn,
miralax 17gm daily prn, mucinex ___ q12prn, MVI, Nasalcrom
5.2/mg/inh spray QID, nasonex ___ 2 sprays daily, NTG 0.4 SL
prn, norvasc 10 daily, novolin N 34 units SC daily qAM, Novolog
SS w/ meals & hs, plavix 75 daily, protonix 40 BID, sorbitol 70%
oral solution 30ml q8 prn, symbicort 160-4.5 2 inh BID, toprol 
XL
12.5 daily, trental 400 BID, Tylenol-codeine 300/3 q4-6 prn,
ventolin 2 puffs qid prn, vicodin ___ q6 prn, Vit D,
Zafirlukast 20 daily, zantac 150 BID, zocor 80 qhs

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Osteomyelitis, R ___ metatarsal 

DM w/ retinopathy/neuropathy, CAD, Hypercholesterolemia, 
GERD,HTN, COPD, h/o breat CA, Fe-deficiency  anemia, obesity, 
PVD, OA, stroke, asthma, PUD,  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory with assistance.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•If instructed, take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___